US07304161B2
To a round bottom flask equipped with magnetic stirring and a nitrogen inlet was added 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid methyl ester (0.10 g, 0.44 mmol) and dry methylene chloride (1.5 mL). The mixture was cooled in an ice bath and triethylamine (0.12 mL, 0.87 mmol) was added followed by (R)-(−)-α-methoxy-α-trifluoromethylphenylacetyl chloride (0.09 mL, 0.48 mmol). The mixture was stirred for 2 hours at which point TLC showed the reaction to be incomplete. More (R)-(−)-α-methoxy-α-trifluoromethylphenylacetyl chloride (0.09 mL, 0.48 mmol) was added and the reaction was allowed to stir 1 hour at room temperature. The mixture was diluted with methylene chloride, washed once with 1N HCl, once with saturated sodium bicarbonate, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel eluting with methylene chloride to give a clear oil, 5-methyl-3-(3,3,3-trifluoro-2-methoxy-2-phenyl-propionyloxymethyl)-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid methyl ester, for which a yield was not determined. 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 2.38 (s, 3H), 3.58 (s, 3H), 3.81 (s, 3H), 4.10 (m, 1H), 4.48 (dd, 1H), 4.65 (m, 2H), 4.86 (m, 1H) 6.78 (d, 1H) 7.47 (m, 5H), 7.60 (d, 1H); 19F-NMR (300 MHz, CD3COCD3) δ (ppm): −72.89 (s); both 1H- and 19F-NMR indicate the presence of only one stereo- and regioisomer; TLC: Rf=0.62 (1:1 ethyl acetate/hexane).

reactant | 3-hydroxymethyl-5-methyl-2,3-dihydrobenzo[1,4]dioxine-6-carboxylic acid methyl ester | 0.44 mmol, 0.10 g | COC(=O)C1=C(C2=C(OCC(O2)CO)C=C1)C | C12H14O5
reactant | triethylamine | 0.87 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-(−)-α-methoxy-α-trifluoromethylphenylacetyl chloride | 0.48 mmol, 0.09 mL | CO[C@@](C(=O)Cl)(C(F)(F)F)C1=CC=CC=C1 | C10H8ClF3O2
reactant | (R)-(−)-α-methoxy-α-trifluoromethylphenylacetyl chloride | 0.48 mmol, 0.09 mL | CO[C@@](C(=O)Cl)(C(F)(F)F)C1=CC=CC=C1 | C10H8ClF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 5-methyl-3-(3,3,3-trifluoro-2-methoxy-2-phenyl-propionyloxymethyl)-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(OCC(O2)COC(C(C(F)(F)F)(C2=CC=CC=C2)OC)=O)C=C1)C | C22H21F3O7
